US07691882B2
3-(3-(4-(3-Fluoro-pyridin-2-yloxymethyl)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (2 mL) solution of (4-(3-fluoro-pyridin-2-yloxymethyl)-phenyl)-acetohydroximoyl chloride (33 mg, 0.11 mmol) described in Manufacturing Example 149-1-4 were added 3-ethynyl-pyridin-2,6-diamine (10 mg, 75 μmol) described in Manufacturing Example 13-1-3 and triethylamine (21 μL, 0.15 mmol), which was stirred for 2 hours and 25 minutes at 50° C. and under nitrogen atmosphere. Water was added to the reaction mixture at room temperature, which was extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate:methanol=20:1) to obtain the title compound (27 mg, 92%).

reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | (4-(3-fluoro-pyridin-2-yloxymethyl)-phenyl)-acetohydroximoyl chloride | 0.11 mmol, 33 mg | FC=1C(=NC=CC1)OCC1=CC=C(C=C1)CC(=NO)Cl | C14H12ClFN2O2
reactant | 3-ethynyl-pyridin-2,6-diamine | 75 μmol, 10 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 0.15 mmol, 21 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(4-(3-Fluoro-pyridin-2-yloxymethyl)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 27 mg, 92% | FC=1C(=NC=CC1)OCC1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C21H18FN5O2
